US05952331
2-Amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine (0.374 g) was dissolved in dichloromethane (25 mL) and cooled to 0° C. Triethyl amine (0.5 mL) was added to the solution and methanesulfonyl chloride (0.12 mL) in dichloromethane (5 mL) was added dropwise. After stirring the mixture for 15 miutes, another portion of triethyl amine (0.25 mL) and methanesulfonyl chloride (0.12 mL) were added sequentially. After 15 minutes, the process was repeated and the examination showed a single new product. The reaction mixture was evaporated to dryness and purified by silica gel chromatography, eluting with ethyl acetate/hexane mixture. The colorless crystalline material was recrystallized from hexane-ether to afford 2-(bis-methanesulfonyl)amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine, (354 mg), m.p. 143.8-144.2° C.

reactant | 2-Amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine | 0.374 g | NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C17H16FN3
reactant | Triethyl amine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethyl amine | 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(bis-methanesulfonyl)amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine | 354 mg | CS(=O)(=O)N(C1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C)S(=O)(=O)C | C19H20FN3O4S2
